US07618975B2
(2-Methylamino-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine (69 mg, 0.23 mmol) and 2.0 M methylamine in THF (4 ml, 8 mmol) by a procedure similar to example 122 to give 20 mg (30%) of yellow solids. 1H NMR (CDCl3): 8.02-8.01 (m, 1H), 7.48 (d, J=8.1 Hz, 1H), 7.42-7.34 (m, 2H), 6.97-6.94 (m, 1H), 6.76-6.70 (m, 2H), 5.01 (brs, 1H), 3.95 (s, 3H), 3.50 (s, 3H), 3.12 (d, J=5.1 Hz, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine | 0.23 mmol, 69 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C=1C=NC(=CC1)OC | C15H13ClN4O
reactant | methylamine | 2.0 M | CN | CH5N
reactant | THF | 8 mmol, 4 ml | C1CCOC1 | C4H8O
product | (2-Methylamino-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine | CNC1=NC2=CC=CC=C2C(=N1)N(C)C=1C=NC(=CC1)OC | C16H17N5O
